US06313117B1
(b) 3-Methylamino-butyric acid methyl ester
3-(Benzyl-methyl-amino)-butyric acid methyl ester (15 g, 67.8 mmol, 1.0 equiv) was placed in a Parr hydrogenation bottle and dissolved in 50 mL of MeOH. 20% Palladium hydroxide on carbon (0.5 g, 0.94 mmol, 0.014 equiv) was added and the mixture was shaken at 50 psi H2 for 16 h. The reaction was judged as complete when the uptake of H2 had stopped. The bottle was opened and 10 g of diatomaceous earth in 100 mL of MeOH was added. The mixture was filtered on a pad of diatomaceous earth which was then washed with 2×100 mL of MeOH. The filtrates were combined and concentrated in vacuo to yield the desired product as an oil that is somewhat volatile (7.6 g, 85%). The crude product was used without further purification; MS, m/z 132=M+1.

reactant | 3-(Benzyl-methyl-amino)-butyric acid methyl ester | 67.8 mmol, 15 g, 1.0 equiv | COC(CC(C)N(C)CC1=CC=CC=C1)=O | C13H19NO2
solvent | MeOH | 50 mL | CO | CH4O
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Palladium hydroxide on carbon | 0.94 mmol, 0.5 g, 0.014 equiv | [OH-].[OH-].[Pd+2]
product | 3-Methylamino-butyric acid methyl ester | COC(CC(C)NC)=O | C6H13NO2
